US06177440B1
A mixture of methyl 2-chloro-3-aminobenzoate (11.11 g, 59.86 mM) and 1,3-cyclohexanedione (9.05 g, 80.8 mM) was heated at 120° C. under a stream of nitrogen for 4 hours. The resultant solid was triturated with hot ethyl acetate, then dried in vacuo to afford 14.05 g (84%) of 3-(3-carbomethoxy-2-chloroanilino)cyclohex-2-en-1-one as a yellow orange solid. 1H NMR (CDCl3) δ 7.6 (dt, 1H, J=1 and 8 Hz), 7.3 (t, 1H, J=8 Hz), 6.6 (br s, 1H), 5.62 (s, 1H), 3.95 (s, 3H), 2.6 (t, 2H, J=6 Hz), 2.4 (t, 2H, J=6 Hz), and 2.1 (m, 2H). IR (CHCl3, cm−1) 3050, 2950, 1729, 1536, 1351, 1299, 1290, 1267, and 1135. MS (ES) m/e 278, 280, 282.

reactant | methyl 2-chloro-3-aminobenzoate | 59.86 mM, 11.11 g | ClC1=C(C(=O)OC)C=CC=C1N | C8H8ClNO2
reactant | 1,3-cyclohexanedione | 80.8 mM, 9.05 g | C1(CC(CCC1)=O)=O | C6H8O2
product | 3-(3-carbomethoxy-2-chloroanilino)cyclohex-2-en-1-one | 14.05 g, 84% | C(=O)(OC)C=1C(=C(NC2=CC(CCC2)=O)C=CC1)Cl | C14H14ClNO3
